US06627651B1
Methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (400 mg), the above-mentioned 3-ethoxybenzyl chloride (636 mg) and potassium carbonate (515 mg) were suspended in DMF (15 ml), and the resulting suspension was stirred at 60° C. for 14 hours. The reaction mixture was diluted with ethyl acetate and was washed respectively with water and an aqueous saturated solution of sodium chloride, and the organic layer was dried with anhydrous magnesium sulfate. The resulting organic layer was concentrated under reduced pressure to remove the solvent, and the residue was subjected to purification using silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain methyl 7-(3-ethoxybenzyloxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (308 mg) as a yellow amorphous substance.

reactant | Methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 400 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 3-ethoxybenzyl chloride | 636 mg | C(C)OC=1C=C(CCl)C=CC1 | C9H11ClO
reactant | potassium carbonate | 515 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 7-(3-ethoxybenzyloxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 308 mg | C(C)OC=1C=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC1 | C21H22O6S
